US07704996B2
Step 74.2: 2-Chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid
To a solution of a 2,4-dichloroprimidine-5-carboxylic acid (440 mg) in THF (4.0 mL) are added t-BuOK (potassium tert-butoxide) (5.7 mmol) and spiro[2.5]oct-6-ylmethanol (2.3 mmol) in THF (1.0 mL) at 0° C. After stirring at 0° C. for 1.5 h, the reaction is quenched by the addition of sat. aq. NaHCO3. The mixture is washed with ether. The aqueous layer is acidified to pH 2 with sat. aq. KHSO4, then extracted with AcOEt. The organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to give the crude title compound.

reactant | 2,4-dichloroprimidine-5-carboxylic acid | 440 mg | ClC1=NC=C(C(=N1)Cl)C(=O)O | C5H2Cl2N2O2
reactant | t-BuOK | 5.7 mmol | CC(C)(C)[O-].[K+]
reactant | spiro[2.5]oct-6-ylmethanol | 2.3 mmol | C1CC12CCC(CC2)CO | C9H16O
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid | ClC1=NC=C(C(=N1)OCC1CCC2(CC2)CC1)C(=O)O | C14H17ClN2O3
